US03947470
Acylation of 2-benzyl-4-methoxybenzofuran with 4-(2-diethylaminoethoxy)benzoyl chloride hydrochloride as described in Example 6 gives 2-benzyl-3-[4-(2-diethylaminoethoxy)benzoyl]-4-methoxybenzofuran.

reactant | 2-benzyl-4-methoxybenzofuran | C(C1=CC=CC=C1)C=1OC2=C(C1)C(=CC=C2)OC | C16H14O2
reactant | 4-(2-diethylaminoethoxy)benzoyl chloride hydrochloride | Cl.C(C)N(CCOC1=CC=C(C(=O)Cl)C=C1)CC
product | 2-benzyl-3-[4-(2-diethylaminoethoxy)benzoyl]-4-methoxybenzofuran | C(C1=CC=CC=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCN(CC)CC)=O)C(=CC=C2)OC | C29H31NO4
